US09388189B2
(S)-5-Methyl-2-(1-((2-methylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.16 mmol) was treated with 4-chloro-2-methylthieno[2,3-d]pyrimidine (45 mg, 0.25 mmol), N,N-diisopropylethylamine (257 μl, 1.48 mmol) according to the method described in Example 17. The crude was purified using SP1® Purification System by reverse phase to give 27 mg (40% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.16 mmol, 50 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-chloro-2-methylthieno[2,3-d]pyrimidine | 0.25 mmol, 45 mg | ClC=1C2=C(N=C(N1)C)SC=C2 | C7H5ClN2S
reactant | N,N-diisopropylethylamine | 1.48 mmol, 257 μl | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-5-Methyl-2-(1-((2-methylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 27 mg, 40% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=C(N2)C)SC=C1 | C22H20N6OS
